US07598289B2
1-Phenanthren-2-yl-hex-5-en-1-one (ABD-212)
Phenanthrene-2-carboxylic acid methoxy-methyl-amide (1 g) was dissolved in anhydrous THF (30 ml). A grignard prepared from 5-bromopentene (3 g) and magnesium in anhydrous THF (15 ml), as described in example 23, was added and the mixture stirred for 2 h. Saturated NH4Cl was added and the mixture extracted with petrol. The organic phase was dried and evaporated and purified by column chromatography (petrol/ethyl acetate) to give the title compound as a white powder. δC (CDCl3, 62.9 MHz): 23.4, 33.3, 37.9, 115.4, 123.2, 123.3, 125.1, 127.0, 127.4, 127.8, 127.9, 128.8, 129.4, 129.7, 131.5, 133.0, 133.3, 134.8, 138.2 and 200.1

reactant | Phenanthrene-2-carboxylic acid methoxy-methyl-amide | 1 g | CON(C(=O)C1=CC=2C=CC3=CC=CC=C3C2C=C1)C | C17H15NO2
reactant | 5-bromopentene | 3 g | BrCCCC=C | C5H9Br
reactant | magnesium | [Mg] | Mg
reactant | NH4Cl | [NH4+].[Cl-]
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-Phenanthren-2-yl-hex-5-en-1-one | C1=C(C=CC=2C3=CC=CC=C3C=CC12)C(CCCC=C)=O | C20H18O
